US06646009B2
(E)-4-fluorostyryl-N-4-chlorophenyl sulfonamide
A solution of (E)-4-fluorostyrylsulfonyl chloride (10 mmol) and 4-chloroaniline (10 mmol) was subjected to General Procedure 1, part B. The title compound, melting point 126-128° C, was obtained in 81.7% yield.

reactant | (E)-4-fluorostyrylsulfonyl chloride | 10 mmol | FC1=CC=C(/C=C/S(=O)(=O)Cl)C=C1 | C8H6ClFO2S
reactant | 4-chloroaniline | 10 mmol | ClC1=CC=C(N)C=C1 | C6H6ClN
product | (E)-4-fluorostyryl-N-4-chlorophenyl sulfonamide | 81.7% yield | FC1=CC=C(/C=C/S(=O)(=O)NC2=CC=C(C=C2)Cl)C=C1 | C14H11ClFNO2S
